US06348449B1
A composition suitable for administration in vaginal suppository form la prepared by weighing 2 mg of finely divided polynucleotide medicinal substance into a tared container, adding 10 ml of 0.5% bupivacaine HCl in purified water, to make a total of 10 g, and dissolving or mixing depending on the solubility of the medicinal substance; 70 g of glycerin is added and mixed; 20 g of granular gelatin is then added and the composition heated carefully on a steam bath until the gelatin is dissolved. The melted mixture is poured into chilled molds to yield 20 vaginal suppositories of 6 grams each containing 100 mcg of polynucleotide medicinal substance in admixture with 2.5 mg bupivacaine.

reactant | bupivacaine HCl | 10 ml | CCCCN1CCCCC1C(=O)NC=2C(=CC=CC2C)C.Cl
reactant | glycerin | 70 g | OCC(O)CO | C3H8O3
solvent | water | O | H2O
product | bupivacaine | 2.5 mg | CCCCN1CCCCC1C(=O)NC=2C(=CC=CC2C)C | C18H28N2O
